US04322563
Step A: Preparation of N-[(4-chloro-2-methylphenyl)-methylene]benzeneamine
A mixture of 4-chloro-2-methylbenzaldehyde (3.5 g, 22.6 mmol) and aniline (2.11 g, 22.6 mmol) in toluene (40 ml) was heated at reflux in a Dean-Stark apparatus for 1 hour. The mixture was cooled and evaporated in vacuo to leave an oily residue. The residue was redissolved in ether and washed with 5% sodium bicarbonate solution. The organic phase was separated, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to afford an oily residue which was purified by distillation via a Kugelrohr apparatus (oven temperature 160° C., 0.5 mm) to provide the title compound (4.0 g, 17.4 mmol, 77%) as a viscous oil; pmr (CDCl3) δ 2.5(3H,s), 6.3-7.5(7H,m), 7.95(H,d), 8.6(H,s).

reactant | 4-chloro-2-methylbenzaldehyde | 22.6 mmol, 3.5 g | ClC1=CC(=C(C=O)C=C1)C | C8H7ClO
reactant | aniline | 22.6 mmol, 2.11 g | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-[(4-chloro-2-methylphenyl)-methylene]benzeneamine | 17.4 mmol, 4.0 g, 77% | ClC1=CC(=C(C=C1)C=NC1=CC=CC=C1)C | C14H12ClN
